US20010016207A1
C. 4-(1-Isopropyl-piperidin-4-yl)-benzoic acid hydrochloride
4-(1-Isopropyl-piperidin-4-yl)-benzoic acid methyl ester hydroiodide (1.7 mmol) is dissolved in 4N HCl (5 ml) and heated under reflux for 10 hours. After cooling the solvent is evaporated and the residue is suspended in acetone and the solid filtered of, washed with acetone and dried (vacuum). A grey-brown powder with mp. >270° C. is obtained.

reactant | 4-(1-Isopropyl-piperidin-4-yl)-benzoic acid methyl ester hydroiodide | 1.7 mmol | I.COC(C1=CC=C(C=C1)C1CCN(CC1)C(C)C)=O
reactant | HCl | 4N, 5 ml | Cl | ClH
product | 4-(1-Isopropyl-piperidin-4-yl)-benzoic acid hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C15H21NO2.ClH/c1-11(2)16-9-7-13(8-10-16)12-3-5-14(6-4-12)15(17)18;/h3-6,11,13H,7-10H2,1-2H3,(H,17,18);1H
